US06251936B1
4-[4-(9-Bromo-2-,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxy]-butyric acid methyl ester
A solution of 2-cyclopentyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol (0.30 g, 0.81 mmol), 4-bromobutyric acid, methyl ester (1.5 mL, 13.0 mmol), 60% sodium hydride (0.09 g, 2.3 mmol), potassium carbonate (1.0 g, 7.2 mmol), and anhydrous benzene (2 mL) was heated at 100° for 36 h. Purification by chromatography with hexanes/ethyl acetate gave the title compound as a solid (0.23 g, 52%): NMR (DMSO-d6): δ8.18 (d, J=8 Hz, 1H), 7.62 (ddd, J=2,6,8 Hz, 1H), 7.50-7.41 (m, 2H), 7.16-7.04 (m, 3H), 4.11 (m, 2H), 3.63 (s, 3H), 3.31 (quint, J=8 Hz, 1H), 2.57 (t, J=7 Hz, 2H), 2.42 (s, 3H), 2.07 (quintet, J=7 Hz, 2H), 1.95 (m, 2H), 1.74-1.45 (m containing a singlet at δ1.56, 9H); MS(EI): [M+], 1 bromine isotope pattern, 550/552.

reactant | 2-cyclopentyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 0.81 mmol, 0.30 g | C1(CCCC1)C1=C(C=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)O | C25H23BrOS
reactant | 4-bromobutyric acid, methyl ester | 13.0 mmol, 1.5 mL | BrCCCC(=O)OC | C5H9BrO2
reactant | sodium hydride | 2.3 mmol, 0.09 g | [H-].[Na+]
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
product | 4-[4-(9-Bromo-2-,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxy]-butyric acid methyl ester | 0.23 g, 52% | COC(CCCOC1=C(C=C(C=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C2CCCC2)=O | C30H31BrO3S
